US08198466B2
Preparation of 1-[2-(7-hydroxy-6-methoxy-3-(3,4,5-trimethoxybenzoyl)benzofuran-2-ylamino)ethyl]guanidine
To a mixture of 0.02 g (0.046 mmol) of 2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzofuran and 0.02 g (0.11 mmol) of N-(2-aminoethyl)guanidine dihydrochloride (prepared by Fontand & Pignatti, J. Label. Compd. Radiopharm., 2002, 45, 899-909) in 0.5 ml of anhydrous dimethylacetamide 0.032 ml (0.184 mmol) of N,N-diisopropylethylamine was added at room temperature under nitrogen atmosphere. The resulting mixture was stirred for 30 h at room temperature, then evaporated to dryness in vacuo. The residue was purified by flash column chromatography (silica gel, acetonitrile/water 9:1) to give the title compound as a yellowish solid (0.006 g, 28%); 1H NMR (CD3OD) δ 3.55 (tr, 2H, CH2, J=6 Hz); 3.7-3.86 (m, 14H, OMe×4, CH2); 4.82 (s, H2O); 6.32 (d, 1H, CH aromatic, J=8.47 Hz); 6.69 (d, 1H, CH aromatic, J=8.47 Hz); 6.94 (s, 2H, CH aromatic). MS (m/z) 458.9; 459.9, 460.9.

reactant | 2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzofuran | 0.046 mmol, 0.02 g | BrC=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2OC(C)=O)OC | C21H19BrO8
reactant | N-(2-aminoethyl)guanidine dihydrochloride | 0.11 mmol, 0.02 g | Cl.Cl.NCCNC(=N)N
reactant | dimethylacetamide | 0.184 mmol, 0.5 ml | CC(=O)N(C)C | C4H9NO
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
product | 1-[2-(7-hydroxy-6-methoxy-3-(3,4,5-trimethoxybenzoyl)benzofuran-2-ylamino)ethyl]guanidine | 0.006 g, 28% | OC1=C(C=CC=2C(=C(OC21)NCCNC(=N)N)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)OC | C22H26N4O7
